US05158950
Isopropyl 2-(1,3-dithiol-2-ylidene)-2-(N-methyl-N-phenylcarbamoyl)acetate
Isopropyl 2-(1,3-dithiol-2-ylidene)-2-(ethoxycarbonyloxy-carbonyl)acetate (15.9 g) and N-methylaniline (6.43 g) were dissolved in methylene chloride (100 ml). The solution was stirred at room temperature for 24 hrs. The resultant mixture was washed with aqueous sodium hydroxide solution, dil-HCl and water. After removal of solvent the residue was purified by column chromatography on silica gel using petroleum ether/ethyl acetate (9:1) as an eluent to give the product (13.2 g, 78.7%) as a yellow oil.

reactant | Isopropyl 2-(1,3-dithiol-2-ylidene)-2-(ethoxycarbonyloxy-carbonyl)acetate | 15.9 g | S1C(SC=C1)=C(C(=O)OC(C)C)C(=O)OC(=O)OCC | C12H14O6S2
reactant | N-methylaniline | 6.43 g | CNC1=CC=CC=C1 | C7H9N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | Isopropyl 2-(1,3-dithiol-2-ylidene)-2-(N-methyl-N-phenylcarbamoyl)acetate | 13.2 g, 78.7% | S1C(SC=C1)=C(C(=O)OC(C)C)C(N(C1=CC=CC=C1)C)=O | C16H17NO3S2
